US07141596B2
Step 2. Methyl (2S)-3-(4-aminophenyl)-2-[(tert-butoxycarbonyl)amino]propanoate
Methyl (2S)-2-[(tert-butoxycarbonyl)amino]-3-(4-nitrophenyl)propanoate (44.0 g, 136 mmol) in methanol (750 mL) and water (75 mL) was treated with ammonium chloride (10.9 g, 203 mmol) and then zinc (71 g, 1.1 mol). The solution was stirred at reflux for 1 h. The solution was filtered through celite, the residue concentrated under vacuum to remove methanol, the water solution extracted with ethyl acetate (500 mL) and dried over sodium sulfate. The product was a yellow foam (38.2 g, 96%). 1H NMR (400 MHz, CD3OD): δ 6.91 (d, J=8.4 Hz, 2H), 6.65 (d, J=8.3 Hz, 2H), 4.28–4.22 (m, 1H), 3.66 (s, 3H), 2.98–2.90 (m, 1H), 2.86–2.78 (m, 1H), 1.39 (s, 9H). LCMS found for C15H22N2O4Na (M+Na)+: m/z=317.

reactant | Methyl (2S)-2-[(tert-butoxycarbonyl)amino]-3-(4-nitrophenyl)propanoate | 136 mmol, 44.0 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1=CC=C(C=C1)[N+](=O)[O-] | C15H20N2O6
reactant | ammonium chloride | 203 mmol, 10.9 g | [Cl-].[NH4+]
solvent | methanol | 750 mL | CO | CH4O
solvent | water | 75 mL | O | H2O
catalyst | zinc | 1.1 mol, 71 g | [Zn] | Zn
product | Methyl (2S)-3-(4-aminophenyl)-2-[(tert-butoxycarbonyl)amino]propanoate | NC1=CC=C(C=C1)C[C@@H](C(=O)OC)NC(=O)OC(C)(C)C | C15H22N2O4
